US04826528
2-Amino-4-chloro-pyrido[2,3-d]pyrimidine
Starting from 2,6-diamino-4-chloropyrimidine and 1,1,3,3-tetramethoxypropane and using a procedure analogous to that of Example 71, the above compound is isolated after chromatographic purification on silica gel with methanol/diisopropylether (1:1) as a yellow oil which can be used in the following reactions without any further purification.

reactant | 2,6-diamino-4-chloropyrimidine | NC1=NC(=CC(=N1)Cl)N | C4H5ClN4
reactant | 1,1,3,3-tetramethoxypropane | COC(CC(OC)OC)OC | C7H16O4
product | 2-Amino-4-chloro-pyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC=C2)Cl | C7H5ClN4
